US07078403B1
A suspension containing 2-bromo-5-methyl-1,3,4-thiadiazole (Modarai, B., et al. J. Heterocyclic Chem. (1974) 11, 343-5) (100 mg, 0.56 mmol), 4-piperidine ethanol (87 mg, 0.67 mmol) and potassium carbonate (77 mg, 0.56 mmol) was heated overnight at 120° C. The reaction was cooled and the mixture partitioned between water (10 ml) and ethyl acetate (30 ml), then the organic layer was washed with brine, dried (Na2SO4) and concentrated. Chromatography of the residue on silica gel (8 g; eluent 2.5% methanol/DCM) gave 1-(5-methyl-1,3,4-thiadiazol-2-yl)-4-(2-hydroxyethyl)piperidine (41 mg, 32%), 1H nmr; 1.33 (m, 2H), 1.54 (q, 2H), 1.7 (m, 1H), 1.79 (m, 2H), 2.54 (s, 3H), 3.08 (m, 2H), 3.71 (t, 2H), 3.88 (m, 2).

reactant | 2-bromo-5-methyl-1,3,4-thiadiazole | 0.56 mmol, 100 mg | BrC=1SC(=NN1)C | C3H3BrN2S
reactant | 4-piperidine ethanol | 0.67 mmol, 87 mg | N1CCC(CC1)CCO | C7H15NO
reactant | potassium carbonate | 0.56 mmol, 77 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-(5-methyl-1,3,4-thiadiazol-2-yl)-4-(2-hydroxyethyl)piperidine | 41 mg, 32% | CC1=NN=C(S1)N1CCC(CC1)CCO | C10H17N3OS
